US04664693
A solution of sodium hydroxide (0.15 g) in water (2 ml) and then ethoxyamine hydrochloride (0.37 g) were added to a solution of 3-hydroxy-5-(benzo[b]thien-5-yl)-2-propionylcyclohex-2-en-1-one (1.05 g) in ethanol/dimethylformamide (5:2 v/v; (70 ml). The mixture was stirred at room temperature for 12 hr, and was subsequently poured into water. the dried (MgSO4) diethyl ether extract was evaporated to give 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(benzo[b]thien-4-yl)cyclohex-2-en-1-one as a white solid, mp 76° C.

reactant | sodium hydroxide | 0.15 g | [OH-].[Na+]
reactant | ethoxyamine hydrochloride | 0.37 g | Cl.C(C)ON
reactant | 3-hydroxy-5-(benzo[b]thien-5-yl)-2-propionylcyclohex-2-en-1-one | 1.05 g | OC1=C(C(CC(C1)C1=CC2=C(SC=C2)C=C1)=O)C(CC)=O | C17H16O3S
solvent | water | 2 ml | O | H2O
solvent | ethanol dimethylformamide | C(C)O.CN(C=O)C
product | 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(benzo[b]thien-4-yl)cyclohex-2-en-1-one | C(C)ON=C(CC)C=1C(CC(CC1O)C1=CC=CC=2SC=CC21)=O | C19H21NO3S
